US08357711B2
Methyl 4-(benzylthio)-2-chlorobenzoate
Methyl 2-chloro-4-fluorobenzoate (1.92 g, 10.2 mmol, 1 eq), cesium carbonate (3.74 g, 11.5 mmol, 0.13 eq) and benzyl mercaptan (1.3 g, 10.5 mmol, 1.03 eq) were combined in dimethyl sulphoxide (20 ml) and the reaction mixture heated at 50° C. for 4 hours. The reaction mixture was poured into ethyl acetate (10 ml) then washed with water (10 ml). The organic phase was dried over sodium sulphate, evaporated to yield the title compound as pink oil (2.82 g, 9.63 mmol, 95%).

reactant | Methyl 2-chloro-4-fluorobenzoate | 10.2 mmol, 1.92 g, 1 eq | ClC1=C(C(=O)OC)C=CC(=C1)F | C8H6ClFO2
reactant | cesium carbonate | 11.5 mmol, 3.74 g, 0.13 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl mercaptan | 10.5 mmol, 1.3 g, 1.03 eq | C(C1=CC=CC=C1)S | C7H8S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | Methyl 4-(benzylthio)-2-chlorobenzoate | 9.63 mmol, 2.82 g, 95% | C(C1=CC=CC=C1)SC1=CC(=C(C(=O)OC)C=C1)Cl | C15H13ClO2S
